US06348459B1
Step 2 Preparation of methyl .alpha.-[2-(aminosulfonyl)ethyl]-2-fluoro-4-nitrobenzeneacetate
Methyl .alpha.-[2-[[bis[(4-methoxyphenyl)methyl]amino] sulfonyl]ethyl]-2-fluoro-4-nitrobenzeneacetate (41.6 g, 74.3 mmol) is dissolved in methylene chloride (200 ml) and trifluoroacetic acid (50 ml). The solution is stirred for 2 days then the solvents evaporated. The residue is dissolved in ethyl acetate (750 ml) and washed with sodium bicarbonate solution (200 ml) and brine (100 ml). After drying (MgSO4), filtration and evaporation the title compound is obtained as a solid (20.5 g, 86%) mp 99-101°.

reactant | Methyl .alpha.-[2-[[bis[(4-methoxyphenyl)methyl]amino] sulfonyl]ethyl]-2-fluoro-4-nitrobenzeneacetate | 74.3 mmol, 41.6 g | COC1=CC=C(C=C1)CN(S(=O)(=O)CCC(C(=O)OC)C1=C(C=C(C=C1)[N+](=O)[O-])F)CC1=CC=C(C=C1)OC | C27H29FN2O8S
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | methyl .alpha.-[2-(aminosulfonyl)ethyl]-2-fluoro-4-nitrobenzeneacetate | 20.5 g, 86% | NS(=O)(=O)CCC(C(=O)OC)C1=C(C=C(C=C1)[N+](=O)[O-])F | C11H13FN2O6S
